US06982348B2
7) tert-butyl (1RS,2SR)-2-(4-fluorophenyl)-2-hydroxy-1-{[6-(1,1,2,2-tetrafluoroethoxy)pyridin-2-yl]methyl}ethylcarbamate
To a solution of tert-butyl (4RS,5SR)-5-(4-fluorophenyl)-2-oxo-4-{[6-(1,1,2,2-tetrafluoroethoxy)pyridin-2-yl]methyl}-1,3-oxazolidine-3-carboxylate (840 mg, 1.72 mmol) in methanol (4 ml) was added a solution (4.12 ml, 2.06 mmol) of 0.5N sodium hydroxide in methanol, and the mixture was stirred at room temperature for 15 min. To the reaction solution was added water (50 ml), and the mixture was extracted with ethyl acetate (50 ml×2). The extract was washed with saturated brine, dried (anhydrous magnesium sulfate) and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) and recrystallized from ethyl acetate-hexane to give the objective substance (390 mg, 49%).

reactant | tert-butyl (4RS,5SR)-5-(4-fluorophenyl)-2-oxo-4-{[6-(1,1,2,2-tetrafluoroethoxy)pyridin-2-yl]methyl}-1,3-oxazolidine-3-carboxylate | 1.72 mmol, 840 mg | FC1=CC=C(C=C1)C1C(N(C(O1)=O)C(=O)OC(C)(C)C)CC1=NC(=CC=C1)OC(C(F)F)(F)F | C22H21F5N2O5
reactant | sodium hydroxide | 2.06 mmol, 0.5N, 4.12 ml | [OH-].[Na+]
reactant | water | 50 ml | O | H2O
solvent | methanol | 4 ml | CO | CH4O
product | tert-butyl (1RS,2SR)-2-(4-fluorophenyl)-2-hydroxy-1-{[6-(1,1,2,2-tetrafluoroethoxy)pyridin-2-yl]methyl}ethylcarbamate | FC1=CC=C(C=C1)C(C(CC1=NC(=CC=C1)OC(C(F)F)(F)F)NC(OC(C)(C)C)=O)O | C21H23F5N2O4
